US04808729
Ethyl 4-(mercaptomethyl)-2-methyl-1,3-oxathiolane-2-propanoate
A stirred solution of 2,3-dimercapto-1-propanol (20.0 g, 0.161 mol) and ethyl levulinate (22 g, 0.161 mol) in methylene chloride (600 ml) under a nitrogen atmosphere was treated with boron trifluoride etherate (5 ml). After stirring for 3 days at room temperature, the reaction was quenched by addition of 250 ml of 5% potassium bicarbonate solution. The organic phase was separated and dried over anhydrous sodium sulfate. The drying agent was filtered and the filtrate concentrated on the rotary evaporator. The residue was chromatographed on silica gel using 6% ethyl acetate/hexane as eluent to give 17 g (43%) of the title compound as an oil.

reactant | 2,3-dimercapto-1-propanol | 0.161 mol, 20.0 g | SC(CO)CS | C3H8OS2
reactant | ethyl levulinate | 0.161 mol, 22 g | C(CCC(=O)C)(=O)OCC | C7H12O3
reactant | boron trifluoride etherate | 5 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(mercaptomethyl)-2-methyl-1,3-oxathiolane-2-propanoate | 17 g, 43% | SCC1SC(OC1)(CCC(=O)OCC)C | C10H18O3S2
